US08349880B2
Methyl 3-fluoro-4-(5-methyl-1H-1,2,4-triazol-1-yl)phenylcarbamimidothioate, hydroiodide (0.739 g, 2.79 mmol, from preparation C) and 6-chloro-2-(4-fluorophenyl)hexanoic acid (0.750 g, 3.07 mmol, from preparation AE) were coupled and then reacted with hydrazine (0.350 mL, 11.2 mmol) using a procedure analogous to Step A of Example 13. The crude products were purified using silica gel chromatography (0-95% ethyl acetate/chloroform) to afford 5-(5-chloro-1-(4-fluorophenyl)pentyl)-N-(3-fluoro-4-(5-methyl-1H-1,2,4-triazol-1-yl)phenyl)-1H-1,2,4-triazol-3-amine (230 mg, 0.502 mmol, 18% yield) as a viscous oil. LC-MS (M+H)+ 458.2.

reactant | Methyl 3-fluoro-4-(5-methyl-1H-1,2,4-triazol-1-yl)phenylcarbamimidothioate, hydroiodide | 2.79 mmol, 0.739 g | I.FC=1C=C(C=CC1N1N=CN=C1C)NC(=N)SC
reactant | 6-chloro-2-(4-fluorophenyl)hexanoic acid | 3.07 mmol, 0.750 g | ClCCCCC(C(=O)O)C1=CC=C(C=C1)F | C12H14ClFO2
reactant | hydrazine | 11.2 mmol, 0.350 mL | NN | H4N2
product | 5-(5-chloro-1-(4-fluorophenyl)pentyl)-N-(3-fluoro-4-(5-methyl-1H-1,2,4-triazol-1-yl)phenyl)-1H-1,2,4-triazol-3-amine | 0.502 mmol, 230 mg, 18% yield | ClCCCCC(C1=CC=C(C=C1)F)C1=NC(=NN1)NC1=CC(=C(C=C1)N1N=CN=C1C)F | C22H22ClF2N7
